US07399759B2
2-(1H-Pyrrol-2-yl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (2.00 g, 11.8 mmol), pyrrole-2-carbonitrile (1.10 g, 11.9 mmol), triethylamine (2.00 ml, 14.3 mmol) and toluene (4.0 ml) was refluxed for 15 hrs as described in Example 1. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-ethanol to give the titled compound (1.90 g, 73%).

reactant | methyl thiosalicylate | 11.8 mmol, 2.00 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | pyrrole-2-carbonitrile | 11.9 mmol, 1.10 g | N1C(=CC=C1)C#N | C5H4N2
reactant | triethylamine | 14.3 mmol, 2.00 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1H-Pyrrol-2-yl)-4H-1,3-benzothiazine-4-one | 1.90 g, 73% | N1C(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C12H8N2OS
